US04885283
In a manner analogous to that described in Example 24(A), from 0.161 g (1.41 mmol) of glutaric anhydride and 0.41 g (0.94 mmol) of (aminomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester acetate, there was obtained 0.124 g of (glutarimidomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester.

reactant | glutaric anhydride | 1.41 mmol, 0.161 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | (aminomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester acetate | 0.94 mmol, 0.41 g | C(C)(=O)O.C(C)OP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CN
product | (glutarimidomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester | 0.124 g | C(C)OP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CN1C(CCCC1=O)=O | C22H40N3O6P
